US09340557B2
As shown in step 9-iv of Scheme 9, to a solution so (cis) 4-(7-morpholinoquinoxalin-5-yl)oxycyclohexanamine (415 mg, 1.264 mmol) and 2-methylsulfonylpyrimidine (400 mg, 2.53 mmol) was added DIEA (490 mg, 661 μL, 3.79 mmol) and the reaction mixture was sealed in a vessel and heated to 100° C. for 16 hours. After this time, the volatiles were removed under a stream of nitrogen gas and the crude residue dissolved in minimal amount of DCM. Purification by medium pressure silica gel chromatography (0-10% MeOH/DCM, 1% Et3N] produced N-((cis)-4-((7-morpholinoquinoxalin-5-yl)oxy)cyclohexyl)pyrimidin-2-amine containing triethylamine hydrochloride as an impurity. Dissolved product in DCM and stirred with a silica-supported amine (Silabond Amine® 40-63 μm). The scavenger mixture was filtered, concentrated under reduced pressure, and dried under high vacuum to provide N-((cis)-4-((7-morpholinoquinoxalin-5-yl)oxy)cyclohexyl)pyrimidin-2-amine (Compound 28, 435 mg): 1H-NMR (400 MHz, CDCl3) δ 8.68 (d, J=1.9 Hz, 1H), 8.61 (d, J=1.9 Hz, 1H), 8.27 (s, 1H), 8.26 (s, 1H), 6.94 (d, J=2.4 Hz, 1H), 6.90 (d, J=2.4 Hz, 1H), 6.50 (t, J=4.8 Hz, 1H), 4.78 (s, 1H), 4.08-3.97 (m, 1H), 3.94-3.86 (m, 4H), 3.37-3.28 (m, 4H), 2.20 (d, J=9.1 Hz, 2H), 1.95-1.85 (m, 6H).

reactant | (cis) 4-(7-morpholinoquinoxalin-5-yl)oxycyclohexanamine | 1.264 mmol, 415 mg | O1CCN(CC1)C1=CC(=C2N=CC=NC2=C1)O[C@H]1CC[C@H](CC1)N | C18H24N4O2
reactant | 2-methylsulfonylpyrimidine | 2.53 mmol, 400 mg | CS(=O)(=O)C1=NC=CC=N1 | C5H6N2O2S
reactant | DIEA | 3.79 mmol, 661 μL, 490 mg | CCN(C(C)C)C(C)C | C8H19N
product | N-((cis)-4-((7-morpholinoquinoxalin-5-yl)oxy)cyclohexyl)pyrimidin-2-amine | O1CCN(CC1)C1=CC(=C2N=CC=NC2=C1)O[C@H]1CC[C@H](CC1)NC1=NC=CC=N1 | C22H26N6O2
